US06001937
Salicylaldehyde was added dropwise over 5 min. to a solution of thiosemicarbazide (5.47 g, 60 mmol) in 75 mL water maintained at 75° C. A white solid began to precipitate immediately. The resulting mixture was heated to reflux for 2 hours, then cooled to room temperature and filtered to give salicylaldehyde thiosemicarbazone (11.5 g, 98%) as a white crystalline solid.

reactant | Salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | thiosemicarbazide | 60 mmol, 5.47 g | NNC(=S)N | CH5N3S
solvent | water | 75 mL | O | H2O
product | salicylaldehyde thiosemicarbazone | 11.5 g, 98% | C(C=1C(O)=CC=CC1)=NNC(=S)N | C8H9N3OS
